US04859229
using 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione and mono (2-chloroethyl) succinate with N,N'-dicyclohexylcarbodiimide and 4-dimethylaminopyridine as the catalyst in methylene chloride there is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H) -pyrimidinyl]-4-fluorophenyl 2-chloroethyl succinate. m.p. 94°-96° C.;

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | mono (2-chloroethyl) succinate | C(CCC(=O)[O-])(=O)OCCCl
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H) -pyrimidinyl]-4-fluorophenyl 2-chloroethyl succinate | C(CCC(=O)OCCCl)(=O)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C18H14Cl2F4N2O6
